US05834499
A solution of 1.95 g of diethyl cyanomethylphosphonate in 40 ml of dioxane was cooled to 10° C., followed by the addition of 0.44 g of sodium hydride (60%) in an argon gas atmosphere. A solution of 1.39 g of tropinone in 25 ml of dioxane was added dropwise to the resulting mixture at the same temperature, followed by stirring at room temperature for 1.5 hours. After the solvent was evaporated, water was added to the residue. The resulting mixture was extracted with chloroform, followed by drying over anhydrous potassium carbonate. The solvent was then evaporated, whereby 1.66 g of 3-cyanomethylene-8-methyl-8-azabicyclo[3.2.1]octane was obtained as the oily form.

reactant | diethyl cyanomethylphosphonate | 1.95 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 0.44 g | [H-].[Na+]
reactant | tropinone | 1.39 g | CN1C2CCC1CC(=O)C2 | C8H13NO
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-cyanomethylene-8-methyl-8-azabicyclo[3.2.1]octane | 1.66 g | C(#N)C=C1CC2CCC(C1)N2C | C10H14N2
